US09227951B2
A mixture of tert-butyl 1-(5-formylthiazol-2-yl)ethylcarbamate (3.5 g, 0.014 mol), sodium dihydrogen phosphate dihydrate (2.9 g, 0.019 mol) and 2-methyl-2-butene (3.85 g, 0.055 mol) in tert-butyl alcohol (70 ml) and water (40 mL) was stirred at room temperature for 30 minutes. Sodium chlorite (3.22 g, 0.035 mol) was added and the reaction maintained at room temperature for an additional 2 hours. The reaction was concentrated, diluted with water (50 mL) and acidified (pH=4) with the addition of 3N H3PO4. The mixture was extracted with DCM, the organic layer dried over anhydrous Na2SO4 and evaporated to dryness to afford 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylic acid (2.35 g, 60%). LC-MS: (FA) ES+ 273.

reactant | tert-butyl 1-(5-formylthiazol-2-yl)ethylcarbamate | 0.014 mol, 3.5 g | C(=O)C1=CN=C(S1)C(C)NC(OC(C)(C)C)=O | C11H16N2O3S
reactant | sodium dihydrogen phosphate dihydrate | 0.019 mol, 2.9 g | O.O.P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 0.055 mol, 3.85 g | CC(C)=CC | C5H10
reactant | Sodium chlorite | 0.035 mol, 3.22 g | Cl(=O)[O-].[Na+]
solvent | tert-butyl alcohol | 70 ml | C(C)(C)(C)O | C4H10O
solvent | water | 40 mL | O | H2O
product | 2-(1-(tert-butoxycarbonylamino)ethyl)thiazole-5-carboxylic acid | 2.35 g, 60% | C(C)(C)(C)OC(=O)NC(C)C=1SC(=CN1)C(=O)O | C11H16N2O4S
